US06140338
Synthesis of N-[9-(cyclooctylmethyl)-9-azabicyclo[3.3.1]nonan-3-yl]xanthene-9-carboxamide
15 ml of anhydrous N,N-dimethylformamide suspension having 165 mg of 3-amino-9-t-butoxycarbonyl-9-azabicyclo[3.3.1]nonane and 155 mg of xanthene-9-carboxylic acid was cooled with ice, and 224 mg of EDCI.HCl and 157 mg of 1-hydroxybenzotriazole were successively added thereto. The temperature was raised to room temperature immediately, and the reaction mixture was stirred for 21 hours. 10 ml of water was added to the reaction solution, followed by extraction with diethyl ether. The organic layer was washed with 10% citric acid solution, saturated aqueous sodium bicarbonate, water and saturated aqueous sodium chloride, followed by drying over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and 301 mg of the title compound as a white solid was obtained.

reactant | 3-amino-9-t-butoxycarbonyl-9-azabicyclo[3.3.1]nonane | 165 mg | NC1CC2CCCC(C1)N2C(=O)OC(C)(C)C | C13H24N2O2
reactant | xanthene-9-carboxylic acid | 155 mg | C1=CC=CC=2OC3=CC=CC=C3C(C12)C(=O)O | C14H10O3
reactant | EDCI.HCl | 224 mg | CCN=C=NCCCN(C)C.Cl
reactant | 1-hydroxybenzotriazole | 157 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | water | 10 ml | O | H2O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | N-[9-(cyclooctylmethyl)-9-azabicyclo[3.3.1]nonan-3-yl]xanthene-9-carboxamide | 301 mg | C1(CCCCCCC1)CN1C2CC(CC1CCC2)NC(=O)C2C1=CC=CC=C1OC=1C=CC=CC21 | C31H40N2O2
